US07829580B2
To a solution of trimethyl(prop-2-ynyloxy)silane (15 ml) in tetrahydrofuran (100 ml) was added butyllithium (2.6 M in hexane, 38 ml) at −78° C. The resulting mixture was stirred at the same temperature for 0.5 hour, and ethyl chloroformate (10 ml) was added thereto. The resulting mixture was stirred at −78° C. for 1.5 hours, and poured into ice water. The resulting materials were extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution successively. The extract was dried over anhydrous sodium sulfate, and the solvents were evaporated in vacuo to afford ethyl 4-(trimethylsilyloxy)but-2-ynoate (16.5 g).

reactant | trimethyl(prop-2-ynyloxy)silane | 15 ml | C[Si](OCC#C)(C)C | C6H12OSi
reactant | butyllithium | 2.6 M, 38 ml | C(CCC)[Li]
reactant | ethyl chloroformate | 10 ml | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | ethyl 4-(trimethylsilyloxy)but-2-ynoate | 16.5 g | C[Si](OCC#CC(=O)OCC)(C)C | C9H16O3Si
